US06165963
This synthesis was performed analogously to the synthesis reported for 2-hydroxymethyl-5-methyl pyridine. Starting from 2-acetoxymethyl-5-ethyl pyridine (40 g, 223 mmol), pure 2-hydroxymethyl-5-ethyl pyridine (26.02 g, 189 mmol, 85%) was obtained as a slightly yellow oil.

reactant | 2-hydroxymethyl-5-methyl pyridine | OCC1=NC=C(C=C1)C | C7H9NO
reactant | 2-acetoxymethyl-5-ethyl pyridine | 223 mmol, 40 g | C(C)(=O)OCC1=NC=C(C=C1)CC | C10H13NO2
product | 2-hydroxymethyl-5-ethyl pyridine | 189 mmol, 26.02 g, 85% | OCC1=NC=C(C=C1)CC | C8H11NO
